US04889941
(a) N-(8-Phenyloctyl)benzylamine
A suspension of 8-phenyloctyl chloride (10.1 g, 44.7 mmol), benzylamine (47.9 g, 44.7 mmol), and anhydrous powdered potassium carbonate in DMF (180 ml) refluxed overnight and cooled to RT. DMF was then evaporated under reduced pressure and water (300 ml) was added to the residue. The oil layer was separated, and the aqueous layer was further extracted with ether (2×150 ml). The ether extracts were evaporated and then combined with the oil layer. The combined oil was diluted with water (250 ml) and acidified with 10% HCl solution to give a white precipitate, 16 g, which was suspended in water (150 ml) and basified with ammonium hydroxide. After being stirred for 10 minutes, most of the white solid went into the solution. Ether (100 ml) was added and stirred for an additional 30 minutes. Organic layer was separated and the aqueous layer was extracted with ether (150 ml×2). Ether extracts were combined, washed with water and saturated brine solution, and dried (MgSO4), thus giving a light yellow oil of 11.90 g (90% yield).

reactant | 8-phenyloctyl chloride | 44.7 mmol, 10.1 g | C1(=CC=CC=C1)CCCCCCCCCl | C14H21Cl
reactant | benzylamine | 44.7 mmol, 47.9 g | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | DMF | 180 ml | CN(C)C=O | C3H7NO
solvent | water | 150 ml | O | H2O
solvent | Ether | 100 ml | CCOCC | C4H10O
product | N-(8-Phenyloctyl)benzylamine | 90% yield | C1(=CC=CC=C1)CCCCCCCCNCC1=CC=CC=C1 | C21H29N
